US06391874B1
(4-Benzyloxy-phenyl)-(6-bromoquinazolin-4yl)-amine hydrochloride
4-Chloro-6-bromoquinazoline (0.25 g, 1.0 mmol) and 4-benzyloxyaniline (0.25 g, 1.3 mmol) were mixed in 2-propanol (6 ml) and heated at reflux for 10 mins (Procedure A). The solution was allowed to cool at room temperature and the 2-propanol removed in vacuo. The resulting solid was triturated with acetone to give the product as a yellow solid (0.39 g, 88%); δH [2H6]-DMSO 11.60 (1H, b, NH), 9.21 (1H, s, 5-H), 8.86 (1H, s, 2-H), 8.20 (1H, d, 7-H), 7.90 (1H, d, 8-H), 7.65 (2H, d, 2′-H, 6′-H), 7.50-7.25 (5H, m, Ph—H), 7.10 (2H, d, 3′-H, 5′-H), 5.15 (2H, s, CH2); m/z 405/407 (M+).

reactant | 4-Chloro-6-bromoquinazoline | 1.0 mmol, 0.25 g | ClC1=NC=NC2=CC=C(C=C12)Br | C8H4BrClN2
reactant | 4-benzyloxyaniline | 1.3 mmol, 0.25 g | C(C1=CC=CC=C1)OC1=CC=C(N)C=C1 | C13H13NO
solvent | 2-propanol | 6 ml | CC(C)O | C3H8O
product | (4-Benzyloxy-phenyl)-(6-bromoquinazolin-4yl)-amine hydrochloride | 0.39 g, 88% | Cl.C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC1=NC=NC2=CC=C(C=C12)Br | InChI=1S/C21H16BrN3O.ClH/c22-16-6-11-20-19(12-16)21(24-14-23-20)25-17-7-9-18(10-8-17)26-13-15-4-2-1-3-5-15;/h1-12,14H,13H2,(H,23,24,25);1H
